US04560699
A solution of 200 mg of 5-(4-vinylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 5 ml of dichloromethane is treated with an excess of ethereal diazomethane, and the reaction mixture is maintained at room temperature for 30 minutes. The solvents and excess reagent are eliminated under reduced pressure and the residue crystallized from ethyl acetate-methanol, to yield methyl 5-(4-vinylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate. Likewise but using diazoethane, diazopropane and diazobutane in place of diazomethane there are respectively obtained:

reactant | 5-(4-vinylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | 200 mg | C(=C)C1=CC=C(C(=O)C2=CC=C3N2CCC3C(=O)O)C=C1 | C17H15NO3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | methyl 5-(4-vinylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C(=C)C1=CC=C(C(=O)C2=CC=C3N2CCC3C(=O)OC)C=C1 | C18H17NO3
